US03960918
A 25-gram portion of 65% oleum (containing 0.203 mole of sulfur trioxide) is poured over 20 grams (0.097 equivalent) of 2-acrylamido-2-methylpropanesulfonic acid. The mixture warms as the acid dissolves in the oleum. The viscous mixture is stirred for 10 minutes and is then poured into 300 ml. (7.42 equivalents) of methanol, while the vessel containing the latter is cooled with ice. After the mixture becomes homogeneous it is stripped to about 100 ml. and extracted with chloroform. The chloroform extracts are combined and dried over sodium sulfate, and the desired methyl 2-acrylamido-2-methylpropanesulfonate is obtained upon stripping the chloroform.

reactant | 2-acrylamido-2-methylpropanesulfonic acid | 20 grams, 0.097 equivalent | C(C=C)(=O)NC(CS(=O)(=O)O)(C)C | C7H13NO4S
reactant | methanol | 7.42 equivalents | CO | CH4O
solvent | oleum | OS(=O)(=O)O.O=S(=O)=O
solvent | oleum | 0.203 mole | OS(=O)(=O)O.O=S(=O)=O
product | methyl 2-acrylamido-2-methylpropanesulfonate | C(C=C)(=O)NC(CS(=O)(=O)OC)(C)C | C8H15NO4S
